US04182757
3.6 g of D-galactose, 1.5 g of 2-propenylamine and 2.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 5-(1). 4.3 g of 1-(2-chloroethyl)-3-(2-propenyl)-3-D-galactopyranosylurea are obtained as colorless caramel. IRνmaxnujol (cm-1): 3400, 1640, 1535, 1070

reactant | D-galactose | 3.6 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | 2-propenylamine | 1.5 g | C(C=C)N | C3H7N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-(2-propenyl)-3-D-galactopyranosylurea | 4.3 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)CC=C | C12H21ClN2O6
